US05037834
2-Chloro-4,5-difluoro-α-oxobenzenepropanoic acid ethyl ester
Malonic acid monoethyl ester (26 g, 199 mmol) was dissolved in tetrahydrofuran (500 ml) and cooled to -70°. After the addition of n-butyllithium (112.5 ml of a 1.6M solution in hexanes, 180 mmol), the reaction mixture was allowed to warm to -10°, and additional n-butyllithium was added (112.5 ml, as above). The resulting milky-white mixture was cooled to -70°, and treated with 2-chloro-4,5-difluorobenzoyl chloride (19 g, 90 mmol) in tetrahydrofuran (200 ml). After warming to room temperature, the reaction mixture was allowed to stir for an additional 2 hours, then poured into 2N hydrochloric acid (750 ml). The aqueous mixture was extracted with ethyl ether, and the combined organic layers were dried and concentrated to provide the title product as a light amber oil (20.6 g, 78.6 mmol, 87% yield), which was used without further purification.

reactant | Malonic acid monoethyl ester | 199 mmol, 26 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-chloro-4,5-difluorobenzoyl chloride | 90 mmol, 19 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2Cl2F2O
reactant | hydrochloric acid | 2N, 750 ml | Cl | ClH
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Chloro-4,5-difluoro-α-oxobenzenepropanoic acid ethyl ester | 78.6 mmol, 20.6 g, 87% yield | C(C)OC(C(CC1=C(C=C(C(=C1)F)F)Cl)=O)=O | C11H9ClF2O3
